US04321204
It is furthermore known (see U.S. Pat. No. 3,474,171), that pyrocatechol can be converted into methallyloxyphenol with methallyl chloride in the presence of equivalent amounts of K2CO3 and KI in acetone as the diluent if the mixture is heated under reflux for 30 hours. The yield is 45% of theory. Rearrangement and cyclization to give 7-hydroxycoumaran are carried out at 200° to 275° C. without a solvent; no yields are given for these stages. Particular disadvantages for an industrial procedure are, in the alkylation stage, the long reaction times giving a low yield and the use of an equimolar amount of potassium iodide, which is expensive and can be recovered from the salt mixture for renewed use only with high losses. Because of the highly exothermic effect, solvent-free rearrangement of methallyloxyphenol can be carried out only with a great deal of technical effort.

reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | methallyloxyphenol | C(C(C)=C)OC1=C(C=CC=C1)O | C10H12O2
reactant | methallyl chloride | C(C(C)=C)Cl | C4H7Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 7-hydroxycoumaran | yield is 45% | OC=1C=CC=C2CCOC12 | C8H8O2
